** sch_path: /home/leo/Repositories/heichips26/heichips26-template/macros/heichips26_digital_project/macros/counter/testbenches/xschem/counter_tb_tran.sch
**.subckt counter_tb_tran
VDD VDD GND 1.5
vclk clock GND pulse(0 1.5 0 10p 10p {0.5/fclk} {1/fclk})
vrst reset_n GND pulse(0 1.5 {1/fclk} 10p 10p {0.5/fclk*800} {1/fclk*600} 1)
ven enable GND pulse(1.5 0 {4/fclk} 10p 10p {0.5/fclk*100} {1/fclk*100} 1)
x1 VDD GND clock reset_n enable b0 b1 b2 b3 b4 b5 b6 b7 counter
* tap: b[0..7] --> b0
R1 bit0 b0 1k m=1
* tap: b[0..7] --> b1
R2 bit1 b1 1k m=1
* tap: b[0..7] --> b2
R3 bit2 b2 1k m=1
* tap: b[0..7] --> b3
R4 bit3 b3 1k m=1
* tap: b[0..7] --> b4
R5 bit4 b4 1k m=1
* tap: b[0..7] --> b5
R6 bit5 b5 1k m=1
* tap: b[0..7] --> b6
R7 bit6 b6 1k m=1
* tap: b[0..7] --> b7
R8 bit7 b7 1k m=1
**** begin user architecture code


*True Mixed Signal Simulation (.xspice)
.include ../../../netlist/xspice/counter_top.xspice
.param VDD=1.5
.param temp=27
.param fclk=50e6
.csparam fclk=fclk
.options savecurrents klu method=gear reltol=1e-4 abstol=1e-15 gmin=1e-15
.control

set num_threads=8

save all

* User Constants
let tstop = 10u
let tstep = 1/fclk

* Operating Point Analysis
op
remzerovec
write @schname\.raw
set appendwrite

* Transient Analysis
tran $&tstep $&tstop
write @schname\.raw

plot v(clock) v(enable) v(reset_n)
plot v(b7) v(b6) v(b5) v(b4) v(b3) v(b2) v(b1) v(b0)

* Writing Data
unset appendwrite
set wr_vecnames
set wr_singlescale
wrdata ../../../scripts/plot_simulations/data/@schname\.txt clock enable reset_n b0 b1 b2 b3 b4 b5 b6 b7

*quit
.endc


.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.lib cornerDIO.lib dio_tt

**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
